US05925662
8.1. 2-Cyanoethyl-2,3-dihydrobenzofuran
Starting from 15.2 g (48 mmol) of 2-p-toluenesulfonyloxyethyl-2,3-dihydrobenzofuran (compound described in the U.S. Pat. No. 4,129,655) and 3.4 g (52 mmol) of potassium cyanide in 170 ml of dimethyl sulfoxide treated under the conditions described in step 5 of Example 7, 7.7 g of product were obtained in oil form.

reactant | 2-p-toluenesulfonyloxyethyl-2,3-dihydrobenzofuran | 48 mmol, 15.2 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1OC2=C(C1)C=CC=C2)C | C17H18O4S
reactant | potassium cyanide | 52 mmol, 3.4 g | [C-]#N.[K+]
solvent | dimethyl sulfoxide | 170 ml | CS(=O)C | C2H6OS
product | 2-Cyanoethyl-2,3-dihydrobenzofuran | 7.7 g | C(#N)CCC1OC2=C(C1)C=CC=C2 | C11H11NO
